US04277394
(III) Production of BOC-Tyr-(D)-Met-Gly-OH
In 30 ml of MeOH is dissolved 2.8 g of BOC-Tyr-(D)-Met-Gly-OEt. After cooling, 12 ml of N-aqueous sodium hydroxide solution is added, and the mixture is stirred at room temperature for 1 hour. After cooling, 60 ml of0.2 N-aqueous hydrochloric acid solution is added, and the precipitated crystals are collected by filtration, followed by washing with cold water.Thus obtained is 2.3 g of the desired product, m.p. 184°-186°C., Rf1 =0.24, [α]D21 +13.3° (c=0.46, DMF)

reactant | BOC-Tyr-(D)-Met-Gly-OEt | 2.8 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C23H35N3O7S
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | 30 ml | CO | CH4O
product | BOC-Tyr-(D)-Met-Gly-OH | 2.3 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C21H31N3O7S
